US05264438
A mixture of 4-methoxy-2-nitro-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]benzamide (1 g), tin(II) chloride (1.39 g) and ethanol (20 ml) was stirred under reflux for 0.5 hour. After cooling, sat. sodium bicarbonate solution was added and the mixture was diluted with chloroform (50 ml). A chloroform layer was separated, washed in turn with water and brine, dried over magnesium sulfate and evaporated. Crude residue (0.93 g) was chromatographed on a silica gel [13 g, chloroform and methanol (50:1-20:1, V/V) as an eluent] to give 2-Amino-4-methoxy-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]benzamide (0.54 g).

reactant | 4-methoxy-2-nitro-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]benzamide | 1 g | COC1=CC(=C(C(=O)NCCCCN2CCC(=CC2)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C23H27N3O4
reactant | tin(II) chloride | 1.39 g | [Sn](Cl)Cl
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-4-methoxy-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]benzamide | 0.54 g | NC1=C(C(=O)NCCCCN2CCC(=CC2)C2=CC=CC=C2)C=CC(=C1)OC | C23H29N3O2
